US07776867B2
Step 3: 6-Bromo-5-phenyl-furo[2,3-d]pyrimidin-4-ylamine (267)
To 4-amino-5-phenylfuro-[2,3-d]pyrimidine (2.3 g, 10.8 mmol) dissolved in dimethylformamide (100 mL) was added N-bromosuccinimide (2.0 g, 11.2 mmol) and potassium acetate (1.1 g, 11.2 mmol). The resulting solution was stirred overnight at room temperature. The mixture was then partitioned between ethyl acetate (150 mL) and water (150 mL). The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The crude product was purified by flash column chromatography (25% acetone/hexane) to give the product as a pale solid (2.0 g, 64%).

reactant | 4-amino-5-phenylfuro-[2,3-d]pyrimidine | 10.8 mmol, 2.3 g | NC=1C2=C(N=CN1)OC=C2C2=CC=CC=C2 | C12H9N3O
reactant | N-bromosuccinimide | 11.2 mmol, 2.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium acetate | 11.2 mmol, 1.1 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-5-phenyl-furo[2,3-d]pyrimidin-4-ylamine | 2.0 g, 64% | BrC1=C(C2=C(N=CN=C2N)O1)C1=CC=CC=C1 | C12H8BrN3O
